US06987194B2
Step C Synthesis of N-[3-(2,6-dichloro-4-hydroxyphenoxy)propyl](tert-butoxy)carboxamide as an Intermediate
This compound was prepared in a manner analogous to that of Step A of Example 3, using 4.1 grams (0.0096 mole) of N-{3-[2,6-dichloro-4-(phenylmethoxy)phenoxy]propyl}(tert.-butoxy)carboxamide, a catalytic amount of 10% palladium on carbon and a theoretical amount of hydrogen gas in 60 mL of 1:1 ethanol and ethyl acetate in a Parr Hydrogenator. The yield of the subject compound was 3.5 grams.

reactant | N-{3-[2,6-dichloro-4-(phenylmethoxy)phenoxy]propyl}(tert.-butoxy)carboxamide | 0.0096 mole, 4.1 grams | ClC1=C(OCCCNC(=O)OC(C)(C)C)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C21H25Cl2NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(2,6-dichloro-4-hydroxyphenoxy)propyl](tert-butoxy)carboxamide | ClC1=C(OCCCNC(=O)OC(C)(C)C)C(=CC(=C1)O)Cl | C14H19Cl2NO4
